US06992087B2
Preparation of 5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one
To a solution of KH (30%, 11.44 g) in tetrahydrofuran (160 ml) under N2 was added dropwise 6,7-dihydro-1-benzothiophen-4(5H)-one (8 g) in tetrahydrofuran (40 ml). After 30 min, a triethyl borane (97 ml, 1 M THF) solution was added dropwise over 5 min. After 10 min, iodopropane was and the reaction stirred for 16 h. The reaction mixture was cooled to 0° C. and 1 N NaOH (250 ml) and hydrogen peroxide (12 ml, 30%) was added. The reaction mixture stirred for 1 h and was extracted with 400 ml ethyl acetate. The organic layer was washed with saturated sodium thiosulfate, dried MgSO4, filtered and concentrated. MPLC chromatography on a biotage 40 L with 4% ethyl acetate/heptane provided the title compound as an oil (8.21 g, 80%): 1H NMR (300 MHz, CDCl3) δ) 7.40, 7.07, 3.15-3.01, 2.47, 2.32, 2.07-1.88, 1.53-1.30, 1.27, 0.99-0.88; HRMS (FAB) calcd for C11H14OS+H 195.0844, found 195.0835.

reactant | 6,7-dihydro-1-benzothiophen-4(5H)-one | 8 g | S1C=CC2=C1CCCC2=O | C8H8OS
reactant | triethyl borane | 1 M, 97 ml | C(C)B(CC)CC | C6H15B
reactant | iodopropane | ICCC | C3H7I
reactant | NaOH | 1 N, 250 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 12 ml | OO | H2O2
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one | 8.21 g, 80% | C(CC)C1CCC2=C(C=CS2)C1=O | C11H14OS
